US05618827
4-Methoxy-2-(3-methyl-1,2,4-oxadiazol-5-yl)benzenamine
Sodium hydride (594 mg) was added to a stirred suspension of acetamide oxime (1.0 g) and 4 molecular sieves (4 g) in dry tetrahydrofuran (50 ml) under nitrogen. The mixture was heated at 60° for 30 min then allowed to cool to room temperature. A solution of 2-amino-5-methoxybenzoic acid, methyl ester (2.0 g) in dry tetrahydrofuran (20 ml) was added and the mixture stirred at reflux for 2.5 h. The suspension was allowed to cool, filtered and the filtrate evaporated to give the title compound as a yellow solid (1.64 g)

reactant | Sodium hydride | 594 mg | [H-].[Na+]
reactant | acetamide oxime | 1.0 g | C(C)(N)=NO | C2H6N2O
reactant | 2-amino-5-methoxybenzoic acid, methyl ester | 2.0 g | NC1=C(C(=O)OC)C=C(C=C1)OC | C9H11NO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-Methoxy-2-(3-methyl-1,2,4-oxadiazol-5-yl)benzenamine | 1.64 g | COC1=CC(=C(C=C1)N)C1=NC(=NO1)C | C10H11N3O2
